US07157447B2
Alternate procedure. To a solution of 2-(2-chloroethoxy)-2-methylpropanenitrile (5.00 g, 33.87 mmol) in methanol (30 mL) was added at 20–22° C. a 50% aqueous solution of hydroxylamine (2.21 mL, 40.58 mmol). Sodium carbonate (1.44 g, 13.59 mmol) and finally water (5 mL) were added. The suspension was stirred at 20–25° C. for 18 h. The reaction mixture was heated at reflux (65–66° C.) for 3 h. The resulting solution was cooled to 20–25° C. The pH (7.5) required no adjustment. The mixture was cooled to −5° C. and dimethyl acetylenedicarboxylate (3.75 mL, 30.56 mmoles) was added slowly over about 18 min keeping the temperature between −5° C. to 0° C. The mixture was stirred for 60 min. Additional dimethyl acetylenedicarboxylate (0.4 mL, 3.26 mmoles) was added and mixture was stirred another 10 min at 0° C. to complete the reaction as confirmed by HPLC. Ethyl acetate (50 mL) and water (25 mL) were added to the reaction mixture. The phases were separated and the aqueous phase was extracted again with ethyl acetate (25 mL). The combined ethyl acetate extracts were washed with about 14% aq. NaCl (2×25 mL). The solvent was removed under vacuum to afford methyl 2-(2-methoxy-2-oxoethyl)-8,8-dimethyl-2,5,6,8-tetrahydro-[1,2,4]oxadiazolo[3,2-c][1,4]oxazine-2-carboxylate as a crude oil (9.4 g, 96.9% yield) with a purity of 71% by HPLC. A sample (0.80 g) was purified by reverse-phase chromatography giving an oil (0.48 g) of 97% purity by HPLC, which crystallized on standing; mp 68–69° C.

reactant | 2-(2-chloroethoxy)-2-methylpropanenitrile | 33.87 mmol, 5.00 g | ClCCOC(C#N)(C)C | C6H10ClNO
reactant | hydroxylamine | 40.58 mmol, 2.21 mL | NO | H3NO
reactant | Sodium carbonate | 13.59 mmol, 1.44 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl acetylenedicarboxylate | 30.56 mmoles, 3.75 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | dimethyl acetylenedicarboxylate | 3.26 mmoles, 0.4 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | methyl 2-(2-methoxy-2-oxoethyl)-8,8-dimethyl-2,5,6,8-tetrahydro-[1,2,4]oxadiazolo[3,2-c][1,4]oxazine-2-carboxylate | COC(CC1(N=C2C(OCCN2O1)(C)C)C(=O)OC)=O | C12H18N2O6
